US04806141
A mixture of propionic anhydride (4.0 ml) and propionic acid (4.0 ml) was added to 3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (2.0 g) and the mixture was heated at 115° C. with stirring until a clear solution was obtained. Trifluoromethanesulfonic acid (10 drops) was then added and the heating and stirring was continued for a further 2 hours. The mixture was cooled, poured into water, basified with sodium hydroxide and stirred at room temperature for 30 minutes. The aqueous mixture was then acidified to pH 6.0 with dilute hydrochloric acid and extracted with diethyl ether. The ether phase was washed successively with water, dilute aqueous sodium bicarbonate and water, then dried over anhydrous sodium sulfate and evaporated to give a crude red oil (2.3 g). Purification by column chromatography over silica gel (eluant dichloromethane) gave 3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)-2-propionylcyclohex-2-en-1-one (1.35 g; 55.0%) as a pale yellow oil. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.15 (3H, t); 2.23 (3H, s); 2.33 (6H, s); 2.35-4.00 (7H, m); 3.66 (3H, s); 6.84 (1H, s); 18.24 (1H, s).

reactant | propionic anhydride | 4.0 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic acid | 4.0 ml | C(CC)(=O)O | C3H6O2
reactant | 3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 2.0 g | OC1=CC(CC(C1)C1=C(C(=C(C=C1C)C)OC)C)=O | C16H20O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | Trifluoromethanesulfonic acid | 10 drops | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | water | O | H2O
product | 3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)-2-propionylcyclohex-2-en-1-one | 1.35 g, 55.0% | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)OC)C)=O)C(CC)=O | C19H24O4
